US07109354B2
a) (4-Bromo-3-methyl-phenyl)-(2-morpholin-4-yl-ethyl)-amine
4-Bromo-3-methylaniline (0.96 gm, 5.14 mmol), 4-(2-chloro-ethyl)-morpholine (1 gm, 5.4 mmol), K2CO3 (1.5 gm, 10.8 mmol), and NaI (0.81 gm, 5.4 mmol) were suspended in DMSO (10 mL) and the mixture was stirred vigorously at reflux for 12 h. The mixture was cooled, diluted with EtOAc, and washed with saturated NaHCO3. The organic layer was washed with another portion of NaHCO3, brine (50 mL), and was dried over MgSO4. Removal of the solvents in vacuo followed by flash chromatography of the residue (Biotage Flash System—40 M SiO2 column, 10% EtOAc in hexanes to 100% EtOAc) yielded the product (500 mg, 31%) as a tan oil. 1H-NMR (CDCl3; 400 MHz): δ 7.36 (d, 1H, J=8.6 Hz), 6.61 (d, 1H, J=2.8 Hz), 6.43 (dd, 1H, d, 8.6, 2.8 Hz), 4.36 (br s, 1H), 3.80 (t, 4H, J=4.6 Hz), 3.20 (t, 2H, J=5.8 Hz), 2.69 (t, 2H, J=6.0 Hz), 2.54 (t, 4H, J=4.4 Hz), 2.40 (s, 3H). ESI-MS (m/z): Calcd. for C13H19BrN2O: 299.2; found: 299.1, 301.1.

reactant | 4-Bromo-3-methylaniline | 5.14 mmol, 0.96 gm | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | 4-(2-chloro-ethyl)-morpholine | 5.4 mmol, 1 gm | ClCCN1CCOCC1 | C6H12ClNO
reactant | K2CO3 | 10.8 mmol, 1.5 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 5.4 mmol, 0.81 gm | [Na+].[I-]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Bromo-3-methyl-phenyl)-(2-morpholin-4-yl-ethyl)-amine | 500 mg, 31% | BrC1=C(C=C(C=C1)NCCN1CCOCC1)C | C13H19BrN2O
